US07727988B2
1-(3,3-Dimethoxy-propyl)-5-(6-fluoro-pyridin-2-yl)-1H-pyrimidine-2,4-dione (Prep76)
A mixture of 5-(6-Fluoro-pyridin-2-yl)-1H-pyrimidine-2,4-dione hydrochloride (Prep75, 200 mg, 0.82 mmol), and K2CO3 (169 mg, 1.23 mmol) in DMF (4 ml) was stirred 1 hour at room temperature. 3-Bromo-1,1dimethoxy-propane (165 mg, 0.90 mmol) was added and stirring was continued for 48 hours. Water (50 ml) was added and the product was extracted with ethyl acetate. The organic phase was dried (Na2SO4) and evaporated. The crude was triturated with iPr2O to give 179 mg of the final compound as a white solid (70% yield).

reactant | 5-(6-Fluoro-pyridin-2-yl)-1H-pyrimidine-2,4-dione hydrochloride | 0.82 mmol, 200 mg | Cl.FC1=CC=CC(=N1)C=1C(NC(NC1)=O)=O
reactant | K2CO3 | 1.23 mmol, 169 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Bromo-1,1dimethoxy-propane | 0.90 mmol, 165 mg | BrCCC(OC)OC | C5H11BrO2
reactant | Water | 50 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 1-(3,3-Dimethoxy-propyl)-5-(6-fluoro-pyridin-2-yl)-1H-pyrimidine-2,4-dione | 179 mg, 70% yield | COC(CCN1C(NC(C(=C1)C1=NC(=CC=C1)F)=O)=O)OC | C14H16FN3O4
